US07652053B2
This compound was prepared from the hydrochloride salt of 2-[1-(4-amino-cyclohexyl)-5-methyl-1H-benzoimidazol-2-yl]-propan-2-ol (prepared as cis/trans-isomer mixture) and 5-fluoro-indan-2-carbaldehyde. The less polar of the two substances isolated by chromatography gave cis-2-(1-{4-[(5-fluoro-indan-2-ylmethyl)-amino]-cyclohexyl}-5-methyl-1H-benzoimidazol-2-yl)-propan-2-ol. The analysis of the 1H-NMR confirmed the cis-conformation of the cyclohexane. LC-MS showed a single peak, C27H34FN3O (m/e) calcd 435.2686, obsd 436.3 (M+H).

reactant | 2-[1-(4-amino-cyclohexyl)-5-methyl-1H-benzoimidazol-2-yl]-propan-2-ol | NC1CCC(CC1)N1C(=NC2=C1C=CC(=C2)C)C(C)(C)O | C17H25N3O
reactant | 5-fluoro-indan-2-carbaldehyde | FC=1C=C2CC(CC2=CC1)C=O | C10H9FO
product | cis-2-(1-{4-[(5-fluoro-indan-2-ylmethyl)-amino]-cyclohexyl}-5-methyl-1H-benzoimidazol-2-yl)-propan-2-ol | FC=1C=C2CC(CC2=CC1)CN[C@H]1CC[C@H](CC1)N1C(=NC2=C1C=CC(=C2)C)C(C)(C)O | C27H34FN3O
